US06258812B1
1-(4-Isopropylanilino)-4-(4-pyridylmethyl)phthalazine dihydrochloride
In the manner described in Example 45, a mixture of 1.80 g (12.68 mmol) phosphorus pentoxide, 1.73 g (12.6 mmol) triethylamine hydrochloride, 1.8 ml (12.74 mmol) 4-isopropylaniline, and 1 g (4.2 mmol) 4-(4-pyridylmethyl)-1 (2H)-phthalazinone is stirred for 4 h at 210° C. The frozen melt is then suspended in water using an ultrasonic bath, filtered, and the filtrate evaporated in the RE. The oil-like residue is distributed between dichloromethane and a mixture of 20 ml water and 5 ml conc. ammonia, and the organic phase dried over anhydrous sodium sulfate, filtered and evaporated under vacuum. The residue is then stirred with acetonitrile, filtered off from some non-transformed 4-(4-pyridylmethyl)-1 (2H)-phthalazinone, and the filtrate evaporated under vacuum. Flash chromatography of the residue on silica gel with a particle size of 0.04-0.06 mm using acetate/methanol mixtures (20:1 and 10:1) yields a resin (free base of the title compound), which is dissolved in a mixture of 4 ml methanol and 1.5 ml of 3N methanolic HCl. After evaporation under vacuum, recrystallization of the residue from methanol/ether, drying under HV (8 h, 120° C.), and equilibration for 16 h at 20° C. and in room atmosphere, title compound is obtained with a water content of 9.4%; m.p. >250° C.; ESI-MS: (M+H)+=355.

reactant | phosphorus pentoxide | 12.68 mmol, 1.80 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | triethylamine hydrochloride | 12.6 mmol, 1.73 g | Cl.C(C)N(CC)CC
reactant | 4-isopropylaniline | 12.74 mmol, 1.8 ml | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | 4-(4-pyridylmethyl)-1 (2H)-phthalazinone | 4.2 mmol, 1 g | N1=CC=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O | C14H11N3O
solvent | water | O | H2O
product | 1-(4-Isopropylanilino)-4-(4-pyridylmethyl)phthalazine dihydrochloride | Cl.Cl.C(C)(C)C1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | InChI=1S/C23H22N4.2ClH/c1-16(2)18-7-9-19(10-8-18)25-23-21-6-4-3-5-20(21)22(26-27-23)15-17-11-13-24-14-12-17;;/h3-14,16H,15H2,1-2H3,(H,25,27);2*1H
